US03971819
A. 4-(3-dimethylaminopropylamino)-3-nitro-5-sulphamyl-benzoic acid
To a suspension of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (22.4 g) in water (24 ml), 3-dimethylaminopropylamine (120 ml) was added, while cooling. Then the reaction mixture was heated to 100°C and kept at this temperature for 2 hours. After cooling and evaporating in vacuo to dryness, the residue was dissolved in water (80 ml) and adjusted to a pH of 7.5 by addition of 4N hydrochloric acid. The precipitated 4-(3-dimethylaminopropylamino)-3-nitro-5-sulphamyl-benzoic acid was collected by suction and recrystallized from water. The melting point was 262°C (decomp.).

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 22.4 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | 3-dimethylaminopropylamine | 120 ml | CN(CCCN)C | C5H14N2
solvent | water | 24 ml | O | H2O
product | 4-(3-dimethylaminopropylamino)-3-nitro-5-sulphamyl-benzoic acid | CN(CCCNC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-])C | C12H18N4O6S
